US06642256B2
Treatment of 1-chloro-3-(4-benzylpiperidin-1-yl)propan-2-ol with potassium phthalimide, following the procedure described in Example 12, Step 2, gave 2-[3-(4-benzylpiperidin-1-yl)-2-hydroxypropyl]isoindole-1,3-dione (32.44 g, 86%) as a white solid:

reactant | 1-chloro-3-(4-benzylpiperidin-1-yl)propan-2-ol | ClCC(CN1CCC(CC1)CC1=CC=CC=C1)O | C15H22ClNO
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | 2-[3-(4-benzylpiperidin-1-yl)-2-hydroxypropyl]isoindole-1,3-dione | 32.44 g, 86% | C(C1=CC=CC=C1)C1CCN(CC1)CC(CN1C(C2=CC=CC=C2C1=O)=O)O | C23H26N2O3
